US07977334B2
1 ml of water, 1 g activated charcoal and 2.66 g (24 mmol) selenium dioxide was added to a solution of 1.65 g (6.00 mmol) N-(acetylphenyl)benzenesulphonamide in about 10 mL dioxane. The reaction mixture was stirred for approx. 4 d at 80° C. and then the solvent was eliminated using the rotary evaporator. The residue was dissolved in about 30 ml of ethanol and refluxed for approx. 4 h. The solvent was eliminated from the reaction mixture using the rotary evaporator, the residue was dissolved in about 100 mL ethyl acetate, washed about three times with 30 ml saturated aqueous sodium hydrogen carbonate solution, dried over sodium sulphate and the solvent was eliminated using the rotary evaporator. 0.917 g (2.73 mmol, 46%) N-[3-(2-ethoxy-2-hydroxyacetyl)-phenyl]-benzenesulphonamide were obtained as a yellow solid.

reactant | water | 1 ml | O | H2O
reactant | charcoal | C | CH4
reactant | selenium dioxide | 24 mmol, 2.66 g | [Se](=O)=O | O2Se
reactant | N-(acetylphenyl)benzenesulphonamide | 6.00 mmol, 1.65 g | C(C)(=O)C1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C14H13NO3S
reactant | dioxane | about 10 mL | O1CCOCC1 | C4H8O2
product | N-[3-(2-ethoxy-2-hydroxyacetyl)-phenyl]-benzenesulphonamide | 2.73 mmol, 0.917 g, 46% | C(C)OC(C(=O)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)O | C16H17NO5S
